US05308854
Step A: Preparation of 2-methoxy-3-(2-amino-1-(R/S)-hydroxy ethyl)-5-ethyl-6-methylpyridine
A mixture of 2-methoxy-5-ethyl-6-methylnicotinaldehyde (1.05 g, 5.86 mmol) and trimethylsilyl cyanide (0.85 mL, 6.37 mmol) containing zinc iodide (10 mg) was stirred, under a nitrogen atmosphere, at ambient temperature for two hours. This liquid was diluted with anhydrous diethyl ether, filtered and then added dropwise to a suspension of lithium aluminum hydride (225 mg, 5.9 mmol) in diethyl ether (15 mL) under nitrogen. After two hours the reaction was quenched with saturated aqueous sodium sulfate, diluted with methylene chloride, filtered and the solvents evaporated to give a semi-solid. This residue was triturated with cold diethyl ether and the crystalline product was collected by filtration to yield 346 mg (28%).

reactant | 2-methoxy-5-ethyl-6-methylnicotinaldehyde | 5.86 mmol, 1.05 g | COC1=C(C=O)C=C(C(=N1)C)CC | C10H13NO2
reactant | trimethylsilyl cyanide | 6.37 mmol, 0.85 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium aluminum hydride | 5.9 mmol, 225 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
catalyst | zinc iodide | 10 mg | [I-].[Zn+2].[I-]
product | 2-methoxy-3-(2-amino-1-(R/S)-hydroxy ethyl)-5-ethyl-6-methylpyridine | COC1=NC(=C(C=C1C(CN)O)CC)C | C11H18N2O2
